US07572808B2
Preparation of 7-(4-chlorophenyl)-2-((2-(ethylamino)-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
The title compound (14 mg, 54% yield) as a yellow powder was prepared from 2-((2-chloro-6-(trifluoromethyl)pyridin-3-yl)methyl)-7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (26 mg, 0.05 mmol), and 2 M ethylamine solution in THF (0.5 mL) according to the procedures described for 7-(4-chlorophenyl)-2-((2-(methylamino)-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one. HPLC/MS: retention time=3.50 min, [M+H]+=525.2.

reactant | 2-((2-chloro-6-(trifluoromethyl)pyridin-3-yl)methyl)-7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.05 mmol, 26 mg | ClC1=NC(=CC=C1CN1N=C2N(C=CC(=C2C2=CC=NC=C2)C2=CC=C(C=C2)Cl)C1=O)C(F)(F)F | C24H14Cl2F3N5O
reactant | ethylamine | 2 M | C(C)N | C2H7N
reactant | 7-(4-chlorophenyl)-2-((2-(methylamino)-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)NC)=O)C2=CC=NC=C2 | C25H18ClF3N6O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 7-(4-chlorophenyl)-2-((2-(ethylamino)-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 14 mg, 54% yield | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)NCC)=O)C2=CC=NC=C2 | C26H20ClF3N6O
